US06982274B2
N1-[3-(3-Fluorophenyl)-1H-5-indazolyl]-2-(4-pyridyl)acetamide
A solution of 50 mg of tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate produced in Production Example I-26, 26 mg of 4-pyridylacetic acid hydrochloride and 0.05 ml of triethylamine in 5 ml tetrahydrofuran was added 37 mg of 1,1′-carbonyldiimidazole as a condensing agent at room temperature. After the completion of the reaction, the reaction mixture was treated with 5 N hydrochloric acid by the procedure of Production Example I-25-b, to give 11 mg of the title compound as a colorless powder.

reactant | tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 50 mg | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C18H18FN3O2
reactant | 4-pyridylacetic acid hydrochloride | 26 mg | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | 1,1′-carbonyldiimidazole | 37 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | N1-[3-(3-Fluorophenyl)-1H-5-indazolyl]-2-(4-pyridyl)acetamide | 11 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NC(CC1=CC=NC=C1)=O | C20H15FN4O
